### PR TITLE
feat: the point stabilizers of a Fuchsian group are cyclic

### PR DESCRIPTION
**Pull request by sqrt-of-2**
This PR records the derivative of the effective `PSL(2, ℝ)`-action on the upper half-plane and uses it to classify point stabilizers: a finite stabilizer is cyclic, generated by a transformation whose derivative at the fixed point is a primitive root of unity of the stabilizer's order, and every nontrivial element of a stabilizer is an elliptic matrix.

It serves the FuchsianOrbifolds roadmap's Layer 0 milestone "the effective projective Möbius action", item 4: "Prove finiteness of every stabilizer. Classify a nontrivial stabilizer as finite cyclic, generated by an elliptic element, and identify its order with the order of the derivative in a disc coordinate." Finiteness is already on `main` (`TauCeti.finite_stabilizer_of_properlyDiscontinuousSMul` applied to the proper discontinuity of a discrete subgroup proved in `TauCeti/Analysis/Complex/Fuchsian/ProperAction.lean`); what this PR adds is the cyclicity, the elliptic classification, and the order identification. After this PR, Layer 0 item 4 still needs the disc coordinate itself — the linearizing chart of Layer 1 item 1 in which the generator acts by multiplication by that root of unity; this PR proves the multiplier statement in the half-plane coordinate and does not claim a disc chart.

`TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean` (128 lines) defines `TauCeti.UpperHalfPlane.smulDeriv q z`, the derivative at `z : ℍ` of the Möbius transformation of `q : PSL(2, ℝ)`. On a representative `g : SL(2, ℝ)` it is `(denom g z ^ 2)⁻¹`; squaring the automorphy factor cancels the sign of the representative, so the value descends to the projective group. `hasStrictDerivAt_coe_smul` and `deriv_coe_smul` identify it with the complex derivative of the transformation, and `smulDeriv_mul` is the chain rule `(q₁ * q₂)' z = q₁' (q₂ • z) * q₂' z`. The derivative computation itself is not redone: it is Mathlib's `UpperHalfPlane.hasStrictDerivAt_smul` from `Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean`, which this file only descends through the centre.

`TauCeti/Analysis/Complex/Fuchsian/Stabilizer.lean` (188 lines) restricts the derivative to a point stabilizer. By the chain rule it is then a monoid homomorphism `stabilizer Γ z →* ℂ` (`stabilizerDeriv`), and it is injective (`stabilizerDeriv_injective`): if `g ∈ SL(2, ℝ)` fixes `z` and its automorphy factor there is a real number `e`, then `g` is the scalar matrix `e` (`coe_eq_scalar_of_smul_eq_self`, proved by comparing real and imaginary parts, using that `z` is not real), so an automorphy factor squaring to one forces `g = ±1`. Injectivity gives `IsMulCommutative (stabilizer Γ z)`, gives cyclicity of a finite stabilizer through Mathlib's `isCyclic_of_injective_ringHom` (`isCyclic_stabilizer`, with the instance `instIsCyclicStabilizer` for the roadmap's input, a discrete `Γ`), and turns the order of an element into the order of its derivative (`orderOf_stabilizerDeriv`), whence `exists_isPrimitiveRoot_stabilizerDeriv`. Finally `isElliptic_of_smul_eq_self` says a matrix fixing a point of `ℍ` and nontrivial in `PSL(2, ℝ)` is elliptic, restating Mathlib's `UpperHalfPlane.isElliptic_of_exists_smul_eq_self` in the effective projective convention the roadmap pins.

The mathematics follows Beardon, *The Geometry of Discrete Groups*, Chapters 7–8, and Katok, *Fuchsian Groups*, §§2.1–2.4, both cited in the files. No Mathlib PR material is vendored.

Roadmap: FuchsianOrbifolds

🤖 Prepared with Claude Code

### CODE REVIEW

**Comment by CBirkbeck** [comment]
🔍 Review in progress — `codex` reviewing `884cbc6d9d35`.

File: TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean
Comment (CBirkbeck) [inline TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The characteristic derivative API still omits automation for its canonical nonvanishing fact.

- `TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean:93` — `smulDeriv_ne_zero` is the canonical simplification proving every action derivative is nonzero, but it lacks `@[simp]`, including after `stabilizerDeriv_apply` unfolds stabilizer derivatives. _Fix:_ Annotate `smulDeriv_ne_zero` with `@[simp]`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 28s · 78.8k in / 953 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/38fa7126e25b19d4a50f8f4cccef389f23e8bf56...d7cdad6b7b8eed0f77e9d11ad0c45fa259456838) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

File: TauCeti/Analysis/Complex/Fuchsian/Stabilizer.lean
Comment (CBirkbeck) [inline TauCeti/Analysis/Complex/Fuchsian/Stabilizer.lean:1]: ### 🟡 placement — request_changes  `codex/gpt-5.6-sol`

Most of the new stabilizer theory is generic upper-half-plane/PSL material and is misplaced under Fuchsian theory.

- `TauCeti/Analysis/Complex/Fuchsian/Stabilizer.lean:59` — All declarations except `instIsCyclicStabilizer` apply to arbitrary `SL(2, ℝ)` elements or arbitrary subgroups of `PSL(2, ℝ)`, so placing them in `Fuchsian/Stabilizer` makes broadly reusable action theory depend on the later Fuchsian layer. _Fix:_ Move the generic declarations to `Analysis/Complex/UpperHalfPlane/Stabilizer.lean`; keep only the discrete-subgroup specialization requiring `Fuchsian.ProperAction` in the Fuchsian file.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 24s · 70k in / 923 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/38fa7126e25b19d4a50f8f4cccef389f23e8bf56...884cbc6d9d35e83c1ddd328e88a2c41bca645794) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md)</sub>

Comment (CBirkbeck) [inline TauCeti/Analysis/Complex/Fuchsian/Stabilizer.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

One theorem docstring still overclaims what its statement proves.

- `TauCeti/Analysis/Complex/UpperHalfPlane/Stabilizer.lean:166` — The heading “A nontrivial point stabilizer consists of elliptic matrices” is inaccurate: every stabilizer contains the identity, while the theorem concerns one fixing matrix whose image in `PSL(2, ℝ)` is nonidentity. _Fix:_ Describe the result as “A nonidentity element fixing a point of `ℍ` is elliptic.”

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 23s · 71.5k in / 835 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/38fa7126e25b19d4a50f8f4cccef389f23e8bf56...d7cdad6b7b8eed0f77e9d11ad0c45fa259456838) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md)</sub>

Comment (CBirkbeck) [inline TauCeti/Analysis/Complex/Fuchsian/Stabilizer.lean:1]: ### ✅ proof-quality — now passing on `d7cdad6`.

**Comment by CBirkbeck** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ♻️ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new derivative character, its injectivity, cyclicity and order consequences, and the ellipticity statement faithfully formalize the claimed mathematics; no semantic defect was found. |
| ♻️ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new projective derivative and stabilizer APIs add genuine PSL-specific material while reusing Mathlib's derivative, ellipticity, cyclicity, and order lemmas; no material duplication was identified. |
| ♻️ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The derivative infrastructure and stabilizer classification form one coherent unit directly advancing FuchsianOrbifolds Layer 0 item 4. |
| ♻️ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The central informal sources are cited in both files, and the reused Mathlib results are explicitly identified at their use sites. No missing attribution is evident. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | The characteristic derivative API still omits automation for its canonical nonvanishing fact. |
| ♻️ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The declarations use the natural generality: derivative and commutativity results hold for arbitrary subgroups, cyclicity assumes only finiteness, and discreteness appears solely in the instance deriving that finiteness. |
| ♻️ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new declarations are placed in the natural UpperHalfPlane and Fuchsian modules, and every import has an evident connection to the definitions or proofs added. |
| 🟡 | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | changes requested | `codex/gpt-5.6-sol` | Four theorem names selectively omit essential hypotheses and consequently advertise stronger, false implications. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | changes requested | `codex/gpt-5.6-sol` | One theorem docstring still overclaims what its statement proves. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The previously undocumented `show` goal reshaping has been removed; the current proofs are concise, structured, and do not rely on undocumented definitional equality. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/38fa7126e25b19d4a50f8f4cccef389f23e8bf56...d7cdad6b7b8eed0f77e9d11ad0c45fa259456838) at head `d7cdad6`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $1.96.</sub>

File: TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean
Comment (sqrt-of-2) [reply TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean:1]: Addressed in d7cdad6b7, with one item deliberately not applied:

- **Inverse law**: added `@[simp] theorem smulDeriv_inv (q : PSL(2, ℝ)) (z : ℍ) : smulDeriv q⁻¹ (q • z) = (smulDeriv q z)⁻¹` (proved from the chain rule), listed in the module docstring.
- **`@[simp]` on `smulDeriv_mul` and `deriv_coe_smul`**: added. Both pass Batteries' `simpNF` and `simpComm` linters (checked directly via `Linter.test`; result `none` for each, also for the new `smulDeriv_inv`).
- **`@[simp]` on `orderOf_stabilizerDeriv`**: not applied, because it breaks the simp-normal-form linter. The existing simp lemma `stabilizerDeriv_apply` rewrites the LHS first, so the lemma could never fire. The linter reports:
  ```
  TauCeti.UpperHalfPlane.orderOf_stabilizerDeriv simpNF: Left-hand side simplifies from
    orderOf ((TauCeti.UpperHalfPlane.stabilizerDeriv Γ z) q)
  to
    orderOf (TauCeti.UpperHalfPlane.smulDeriv (↑↑q) z)
  using
    simp only [*, TauCeti.UpperHalfPlane.stabilizerDeriv_apply]
  ```
  Restating it in unfolded `smulDeriv` form just to make it simp would hide the homomorphism statement that `orderOf_injective` gives directly. So it stays an ordinary rewrite lemma, used by `rw` in `exists_isPrimitiveRoot_stabilizerDeriv`.

File: TauCeti/Analysis/Complex/Fuchsian/Stabilizer.lean
Comment (CBirkbeck) [inline TauCeti/Analysis/Complex/Fuchsian/Stabilizer.lean:1]: ### 🟡 naming — request_changes  `codex/gpt-5.6-sol`

Four theorem names selectively omit essential hypotheses and consequently advertise stronger, false implications.

- `TauCeti/Analysis/Complex/UpperHalfPlane/Stabilizer.lean:62` — `coe_eq_scalar_of_smul_eq_self`, `mem_center_of_denom_sq_eq_one`, `eq_one_of_smulDeriv_eq_one`, and `isElliptic_of_smul_eq_self` each omit another essential hypothesis from names that explicitly describe hypotheses. _Fix:_ Rename them to include both hypotheses, e.g. suffix `_of_denom_eq`, prefix `_of_smul_eq_self`, or suffix `_of_ne_one` as appropriate.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 33s · 91.8k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/38fa7126e25b19d4a50f8f4cccef389f23e8bf56...d7cdad6b7b8eed0f77e9d11ad0c45fa259456838) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md)</sub>

File: TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean
Comment (CBirkbeck) [reply TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `d7cdad6`; the finding stands — The characteristic derivative API still omits automation for its canonical nonvanishing fact.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4001698319.</sub>

**Comment by kim-em** [comment]
🔍 Review in progress — `codex` reviewing `d4362d49d9f7`.

File: TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean
Comment (kim-em) [inline TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean:1]: ### 🟡 naming — request_changes  `codex/gpt-5.6-sol`

The new API is filed under `TauCeti.UpperHalfPlane` despite being dot-notation material whose receiver types already exist in Mathlib.

- `TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean:55` — The declarations are placed in `TauCeti.UpperHalfPlane`, but their leading arguments are existing Mathlib types (`SL(2, ℝ)`, `PSL(2, ℝ)`, or `ℍ`), contrary to the namespace rule for dot-notation APIs. _Fix:_ Move the `SL`-receiver declarations to `Matrix.SpecialLinearGroup`, the `PSL`-receiver API to `Matrix.ProjectiveSpecialLinearGroup`, and keep associated lemmas with `smulDeriv`; update all in-repository uses.
- `TauCeti/Analysis/Complex/UpperHalfPlane/Stabilizer.lean:57` — The stabilizer and matrix declarations are likewise nested under `TauCeti.UpperHalfPlane` although their receivers are existing `SL(2, ℝ)` or `Subgroup PSL(2, ℝ)` objects. _Fix:_ Place the matrix lemmas in `Matrix.SpecialLinearGroup` and the subgroup/stabilizer API in the appropriate existing receiver namespace, then rename references consistently.
- `TauCeti/Analysis/Complex/Fuchsian/Stabilizer.lean:45` — `instIsCyclicStabilizer` is placed in `TauCeti.UpperHalfPlane` even though its leading object is the existing Mathlib type `Subgroup PSL(2, ℝ)`. _Fix:_ Move the instance to the same receiver namespace chosen for the subgroup stabilizer API and update its documented fully qualified name.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 52s · 136.8k in / 2.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/6bc3780dce4545c3a58085efada58f9f0043c7b1...d4362d49d9f7c7a3f68183529c6da3479085afb2) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md)</sub>

**Comment by kim-em** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new derivative, stabilizer character, cyclicity, order identification, and ellipticity statements faithfully formalize the claimed mathematics, including trivial and nontrivial stabilizer edge cases. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The new projective derivative and stabilizer results do not duplicate existing TauCeti or Mathlib declarations, and the implementation reuses Mathlib’s derivative, ellipticity, cyclicity, order, and primitive-root APIs. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently advances FuchsianOrbifolds Layer 0 item 4, with the effective PSL action and proper-discontinuity prerequisites already present. The derivative infrastructure, cyclic stabilizer classification, order identification, and ellipticity results form one topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The files credit the central informal sources (Beardon and Katok) and explicitly identify the Mathlib declarations reused for the derivative, cyclicity, and elliptic classification. No uncredited vendored or closely adapted formalization was found. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical public surface provides the derivative’s representative formula, nonvanishing, identity, composition, inverse, and analytic characterization, together with the stabilizer character, injectivity, cyclicity, order identification, primitive-root generator, and ellipticity result. The added simp annotations are appropriate, and the unannotated order theorem is correctly left as an explicit rewrite because its left side is already simplified by `stabilizerDeriv_apply`. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations use the natural generality: derivative and stabilizer results apply to arbitrary PSL(2, ℝ) subgroups, finiteness is required only for cyclicity and primitive-root existence, and discreteness appears only in the Fuchsian specialization. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new declarations are placed in their natural UpperHalfPlane and Fuchsian modules, and each import has an evident use consistent with the dependency structure. |
| 🟡 | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | changes requested | `codex/gpt-5.6-sol` | The new API is filed under `TauCeti.UpperHalfPlane` despite being dot-notation material whose receiver types already exist in Mathlib. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | Each new substantive file has a mathematically focused module docstring, and all public declarations are documented accurately without overclaiming or process-oriented material. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise, appropriately factored, and use explicit action and derivative lemmas without undocumented goal reshaping or fragile long rewrite chains. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/6bc3780dce4545c3a58085efada58f9f0043c7b1...d4362d49d9f7c7a3f68183529c6da3479085afb2) at head `d4362d4`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $2.22.</sub>

File: TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean
Comment (kim-em) [reply TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `d4362d4`; this clears the finding ✅ — approved on `d4362d4`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4001698319.</sub>

**Comment by eohjelle** [comment]
🔍 Review in progress — `codex` reviewing `aff49a2e50e1`.

File: TauCeti/Analysis/Complex/UpperHalfPlane/Stabilizer.lean
Comment (eohjelle) [inline TauCeti/Analysis/Complex/UpperHalfPlane/Stabilizer.lean:1]: ### ✅ api-design — now passing on `aff49a2`.

**Comment by eohjelle** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/603b28011f779bd341d0a08e788498b81542bd7d/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new derivative, injectivity, cyclicity, primitive-root, and ellipticity statements faithfully formalize the claimed mathematics; no semantic defect was found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The new declarations provide projective-action and stabilizer-specific APIs while reusing Mathlib’s derivative, ellipticity, cyclicity, and order lemmas; no material duplication with a located existing declaration was identified. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently advances FuchsianOrbifolds Layer 0 item 4: the derivative API directly supports the stabilizer character, cyclicity, order identification, and elliptic classification. Its three files form one dependency chain rather than separate topics. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The new modules credit Beardon and Katok at the relevant file level and explicitly identify Mathlib’s `UpperHalfPlane.hasStrictDerivAt_smul` as the source of the derivative computation. No uncredited vendored or closely adapted source is evident. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical public interface is complete and appropriately annotated. The prior `@[simp]` concern is withdrawn because `stabilizerDeriv_apply` normalizes the left-hand side before `orderOf_stabilizerDeriv` can match. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations are stated at the natural level: derivative and injectivity results apply to arbitrary subgroups, while finiteness and discreteness are introduced only for cyclicity and the Fuchsian specialization where they are needed. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The derivative and generic stabilizer results are placed in the existing UpperHalfPlane topic, while the discrete-subgroup specialization is correctly isolated under Fuchsian. No evidently unused or unnecessarily broad import is present. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, use standard Mathlib terminology, and are placed in namespaces supporting appropriate dot notation. No gratuitous or unscoped notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | Each new substantive file has a mathematical module docstring, and the public definitions, instances, and theorems are documented accurately without process-focused or overstated claims. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/603b28011f779bd341d0a08e788498b81542bd7d/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are reasonably short and structured, with no undocumented `change`/`show`, excessive proof length, or repeated substantial reasoning requiring extraction. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/6bc3780dce4545c3a58085efada58f9f0043c7b1...aff49a2e50e1eeb040ceeadda96ccf1d9976e7cb) at head `aff49a2`. rubrics @ [`603b280`](https://github.com/TauCetiProject/TauCetiReview/tree/603b28011f779bd341d0a08e788498b81542bd7d/rubrics). Review spend: $1.39.</sub>

File: TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean
Comment (eohjelle) [reply TauCeti/Analysis/Complex/UpperHalfPlane/SmulDeriv.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `aff49a2`; the finding stands — The derivative character API is missing automation on its canonical order-normalization lemma.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4001698319.</sub>

File: TauCeti/Analysis/Complex/UpperHalfPlane/Stabilizer.lean
Comment (sqrt-of-2) [reply TauCeti/Analysis/Complex/UpperHalfPlane/Stabilizer.lean:1]: Contesting: `@[simp]` on `Subgroup.orderOf_stabilizerDeriv` does not work, and I checked this on the current head `aff49a2`. This is the same request made earlier in the api-design thread at https://github.com/TauCetiProject/TauCeti/pull/6624#discussion_r4001698319. That contest was accepted on `d4362d4` (https://github.com/TauCetiProject/TauCeti/pull/6624#discussion_r4010259280). The code involved has not changed since.

**Why it can't be a simp lemma.** Its left-hand side is `orderOf (stabilizerDeriv Γ z q)`. That is a `MonoidHom` applied to an argument, and the existing `@[simp] Subgroup.stabilizerDeriv_apply` rewrites exactly that pattern. It is the standard `_apply` simp lemma for a bundled hom. So simp always unfolds `stabilizerDeriv Γ z q` before this lemma could match, and the tag would never do anything.

**Evidence 1: the simpNF linter fails.** I added `attribute [simp] Subgroup.orderOf_stabilizerDeriv` in a scratch file that imports the module, then ran `simpNF.test ``Subgroup.orderOf_stabilizerDeriv`:
```
simpNF: some (Left-hand side simplifies from
  orderOf ((Γ.stabilizerDeriv z) q)
to
  orderOf ((↑↑q).smulDeriv z)
using
  simp only [*, stabilizerDeriv_apply]
Try to change the left-hand side to the simplified term!)
```

**Evidence 2: with the tag, `simp` can't prove the lemma's own statement.**
```lean
attribute [simp] Subgroup.orderOf_stabilizerDeriv
example (Γ : Subgroup PSL(2, ℝ)) (z : ℍ) (q : stabilizer Γ z) :
    orderOf (stabilizerDeriv Γ z q) = orderOf q := by simp
```
```
error: unsolved goals
⊢ orderOf ((↑↑q).smulDeriv z) = orderOf q
```

The other ways to get a simp lemma here would make the API worse:
- Dropping `@[simp]` from `stabilizerDeriv_apply` would break the usual convention for bundled-hom `_apply` lemmas.
- Restating this lemma in unfolded `smulDeriv` form would hide the homomorphism statement that `orderOf_injective` gives directly.
- Adding a second, unfolded copy would duplicate the lemma.

So `orderOf_stabilizerDeriv` stays an ordinary rewrite lemma. It is used with `rw` in `exists_isPrimitiveRoot_stabilizerDeriv`.

Comment (eohjelle) [reply TauCeti/Analysis/Complex/UpperHalfPlane/Stabilizer.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `aff49a2`; this clears the finding ✅ — approved on `aff49a2`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4013586477.</sub>
